2182-02-05 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 yo with a hx of DM, CAD s/p CABG [**2152**] redo [**10/2171**]
   (LIMA-LAD, SVG-OM, SVG-Diag), CHF (EF 51%), and EtOH abuse, admitted to
   OSH for shortness of breath and chest pain and transferred to the [**Hospital1 19**]
   for cardiac catheterization that was aborted [**1-29**] delirium and agitation
   on [**1-22**] until [**1-25**]: Promus LIMA to LAD, on RHC.
   24 Hour Events:
   [**2-5**]
   -Patient conversant, knows he is in [**Hospital 23**] Hospital in [**2182-1-28**].
   Patient angry about restraints and attention from RNs.  Mental status
   markedly improved.
   [**2-4**]
   - Refusing POs after olanzapine ; given lower dose (22 u ) NPH and no
   humalog for bld gluc 121 this AM
   - started standing low dose seroquel at 7pm, per [**Female First Name (un) **]; will increase
   dose if needed
   - re-consulted Geriatrics for delirium --> seroquel QHS, and consider
   starting Neurontin low dose tomorrow night (pt was on neurontin at home
   previously, stopped end of [**Month (only) **] for some reason)
   - bradycardia down to 30s w junctional rhythm, then HR back to 80s
   - febrile, blood and urine cultures, stat CXR
   - transferred back to CCU
   - ABG shows pH 7.43 paCO2 55, paO2 75 despite tachypnea
   - diuresing well; also given a dose of IV acetazolamide in setting of
   metabolic alkalosis; clinically respiratory status looks improved,
   breathing ~28/min (rather than >40)
   - ABG 4:30pm showed improved pCO2
   - given nighttime olanzapine ~9pm (had started becoming awake/agitated
   again around 8am but not too agitated)-- (didnt use seroquel as planned
   b/c he didnt seem like he could swallow reliably); gave him the
   antipsychotic to help him rest --> appeared to work for a while, but
   nursing thought it was just because he tired himself out...
   - 3am pt became more agitated kicking around, trying to get out of bed
   to go to work; nurse didnt feel zyprexa would work anyway; couldnt get
   an ekg to check QT either b/c pt so agitated; put him on leg restraints
   (only while nurse was in room w him)
   - 5:30am screaming out for help constantly ; gave 2.5mg olanzapine 6am;
   will need ekg when calm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-5**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 98 (85 - 120) bpm
   BP: 119/60(75) {99/50(68) - 139/78(92)} mmHg
   RR: 27 (21 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
             Total In:
                                                                    500 mL
                                                                      4 mL
   PO:
             TF:
   IVF:
                                                                    500 mL
                                                                      4 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                    275 mL
   Urine:
                                                                  2,030 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,530 mL
                                                                   -271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/57/91.[**Numeric Identifier 143**]/32/9
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   10.8 g/dL
   136 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.3 mEq/L
   13 mg/dL
   101 mEq/L
   147 mEq/L
   33.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2182-1-28**]  04:20 PM
                             [**2182-1-29**]  12:33 AM
                             [**2182-1-29**]  03:15 AM
                             [**2182-1-29**]  04:12 PM
                             [**2182-1-29**]  04:24 PM
                             [**2182-1-30**]  03:16 AM
                             [**2182-1-31**]  04:05 AM
                             [**2182-2-4**]  03:12 PM
                             [**2182-2-4**]  05:04 PM
                             [**2182-2-5**]  04:00 AM
   WBC
   6.6
   6.2
   8.2
   8.7
   Hct
   27.6
   30.2
   29.9
   28.0
   33.8
   Plt
   [**Telephone/Fax (3) 13151**]74
   Cr
   0.9
   1.0
   0.9
   1.0
   1.2
   TCO2
   30
   34
   40
   38
   Glucose
   [**Telephone/Fax (3) 13054**]82
   136
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82 yo with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization after ICU admission for respiratory failure during
   which time he had an elevated Troponin and was intubated for hypoxic
   respiratory failure and DTs.
   .
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. Currently, patient has a new
   stent in the SVG-OM1 that is partially expanded. He is awaiting
   catheterization on [**1-24**] for evaluation and treatment of the LIMA
   occlusion. Currently, he is chest pain free, but refusing EKG.
   - ASA 325mg daily
   - Atorvastatin 80mg daily
   - Plavix 75mg daily
   - Metoprolol Tartrate 25mg [**Hospital1 7**]
   - Heparin gtt
   - No Integrillin given current Troponin
   .
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**]. Patient with persistent fluid overload
   on admission, but he was not pre-hydrated in anticipation of cardiac
   catheterization. On transfer, patient demonstrates mild respiratory
   distress and O2 requirement, limited clinical exam suggests fluid
   overload.
   - Lasix 40mg IV x 1, repeat PRN
   - O2 by NC
   - Metoprolol Tartrate 25mg [**Hospital1 7**]
   - Lisinopril 2.5mg daily
   .
   # Agitation/Mental status changes: Patient's cardiac catheterization
   aborted [**1-29**] agitation that was refractory to significant doses of
   Haldol. Per patient's wife and [**Name (NI) 755**] Hospital records, patient has
   been confused and agitated since his hospitalization at [**Location (un) 755**]. He
   pulled out his Foley prior to transfer to the [**Hospital1 19**] and his wife
   reports that he was paranoid at [**Location (un) 755**], insisting that the FBI was out
   to get him. At home, however, his wife states that he is not confused,
   but does exhibit short-term memory impairments. As patient has been
   attempting to get out of bed, pulling at lines, and is not fully
   oriented despite repeated verbal reorientation, his primary process
   appears to be agitation with some minor component of dementia/delirium.
   Patient also takes Ativan PO PRN at home, so he may have some component
   of benzodiazepine withdrawal.
   - Psych consult, recommending 0.5 to 1mg q4H:PRN agitation
   - Will try to avoid Haldol/Zyprexa as it will further prolong QT
   interval
   - Frequent reorientation
   - Minimize lines & tubes
   - Preserve sleep wake cycles
   - OOB for meals
   .
   #. Rhythm: Patient in and out of AF in the CCU, but no report of h/o of
   AF. He has also been persistently tachycardic, despite having a regular
   rhythm on admission. This may be agitation paired with diuresis, but
   will continue to monitor closely.
   - On telemetry
   - Metoprolol Tartrate 25mg PO BID
   .
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   - Gabapentin 600mg PO qHS
   .
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal.
   - IV Ativan 0.5mg-1mg q4H:PRN
   - SW consult
   .
   #. HLD: Continue Atorvastatin 80mg daily.
   .
   #. HTN:
   -Continue Lisinopril 2.5mg daily
   -Continue Metoprolol Tartrate 25mg PO BID
   .
   #. GERD:
   - Ranitidine 150mg PO BID
   .
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   .
   #. Hx of TIA: Short-term left hand and leg weakness, now resolved. No
   focal neurologic deficits on admission.
   .
   #. FEN: Cardiac/diabetic, MVI
   .
   #. Access: PIV, right subclavian line (will plan to d/c when patient
   cooperative)
   .
   #. PPx: Heparin gtt
   .
   #. Communication: [**First Name8 (NamePattern2) 2064**] [**Known lastname 12865**] ([**Telephone/Fax (1) 12866**]
   .
   #. Code: FULL
   .
   #. Dispo: pending repeat cardiac catheterization
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2182-2-4**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-02-05 07:41:00 Physician Resident Progress Note
Chief Complaint: 82M with hx of CABG, DM, etoh abuse, transferred for
   cardiac catheterization s/p DES to LIMA-LAD, c/b intubation for
   hypoxemic respiratory failure and continued agitation.
   24 Hour Events:
   - started low dose seroquel at 7pm per [**Female First Name (un) **]
   - re-consulted Geriatrics for delirium --> seroquel QHS, and consider
   starting Neurontin low dose tomorrow night (pt was on neurontin at home
   previously, stopped end of [**Month (only) **] for some reason)
   - bradycardia down to 30s w junctional rhythm, then HR back to 80s -
   possible vagal, ?aspiration
   - febrile, blood and urine cultures, stat CXR
   - transferred back to CCU
   - ABG shows pH 7.43 paCO2 55, paO2 75 despite tachypnea
   - diuresing well; also given a dose of IV acetazolamide in setting of
   metabolic alkalosis; clinically respiratory status looks improved,
   breathing ~28/min (rather than >40)
   - given nighttime olanzapine ~9pm (had started becoming awake/agitated
   again around 8am but not too agitated)-- (didnt use seroquel as planned
   b/c he didnt seem like he could swallow reliably); gave him the
   antipsychotic to help him rest --> appeared to work for a while, but
   nursing thought it was just because he tired himself out.
   - 3am pt became more agitated kicking around, trying to get out of bed
   to go to work; nurse didnt feel zyprexa would work anyway; couldnt get
   an ekg to check QT either b/c pt so agitated; put him on leg restraints
   (only while nurse was in room w him)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-5**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 97 (85 - 120) bpm
   BP: 121/67(81) {99/50(68) - 139/78(92)} mmHg
   RR: 38 (21 - 38) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                    500 mL
                  PO:
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                    275 mL
   Urine:
                                                                  2,030 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,530 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.42/57/91.[**Numeric Identifier 143**]/32/9
   Physical Examination
   General Appearance: No acute distress, obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, AOx3
   Labs / Radiology
   174 K/uL
   10.8 g/dL
   136 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.3 mEq/L
   13 mg/dL
   101 mEq/L
   147 mEq/L
   33.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2182-1-28**]  04:20 PM
                             [**2182-1-29**]  12:33 AM
                             [**2182-1-29**]  03:15 AM
                             [**2182-1-29**]  04:12 PM
                             [**2182-1-29**]  04:24 PM
                             [**2182-1-30**]  03:16 AM
                             [**2182-1-31**]  04:05 AM
                             [**2182-2-4**]  03:12 PM
                             [**2182-2-4**]  05:04 PM
                             [**2182-2-5**]  04:00 AM
   WBC
   6.6
   6.2
   8.2
   8.7
   Hct
   27.6
   30.2
   29.9
   28.0
   33.8
   Plt
   [**Telephone/Fax (3) 13151**]74
   Cr
   0.9
   1.0
   0.9
   1.0
   1.2
   TCO2
   30
   34
   40
   38
   Glucose
   [**Telephone/Fax (3) 13054**]82
   136
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: The post-sternotomy wires appear unchanged including
   multiple broken wires.  The cardiomediastinal silhouette is stable
   including mild cardiomegaly. The left central venous line has been
   removed in the interim.
   The current study demonstrates significant motion artifact, but mild
   vascular engorgement cannot be excluded. There is no pleural effusion.
   There is no evidence of pneumothorax, although note is made that the
   patient had obscures partially at the lung apices. Small amount of
   pleural effusion on the left cannot be excluded.
   Microbiology: All final, negative. Last culture [**2182-1-24**]
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. s/p DES to SVG-OM1 and LIMA-LAD.
   Chest pain free. CE stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 25mg [**Hospital1 7**]
   - low dose acei
   - telemetry
   # Agitation/Mental status changes: The patient has been agitated since
   the outside hospital. He has multiple new lesions in his brain likely
   secondary to cath procedures with emboli. Has required restraints and
   chemical restraints. Continues to be agitation. Started on zyprexa.
   [**Female First Name (un) **] consulted. Consider psych consult.
   - appreciate [**Female First Name (un) **] consult
   - consider psych consult
   - EKG today - check QTc
   - attempt seroquel
   - start neurontin qHS
   - hold haldol and benzo
   - frequent reorientation
   - minimize lines and tubes
   - sleep wake cycles
   - OOB for meals
   - restraints prn (attempt to hold off)
   #. Acute on chronic systolic CHF: CHF with EF 30-35%. Appeared fluid
   overloaded and had hypoxemic respiratory failure requiring intubation.
   Patient has been diuresed.
   - d/c lasix
   - torsemide
   - oxygen for SaO2 > 92%
   - Metoprolol tartrate
   - Lisinopril
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - NPH 22u [**Hospital1 7**] & Humalog sliding scale - adjust prn
   - Gabapentin 600mg PO qHS
   #. EtOH abuse: Outside window for withdrawal. Monitor.
   - SW consult
   #. HLD: Continue Atorvastatin 80mg daily.
   #. HTN:
   -Continue Lisinopril 2.5mg daily
   -Continue Metoprolol Tartrate 25mg PO BID
   #. GERD:
   - Ranitidine 150mg PO BID
   #. Anxiety/Depression: Stable.
   - Continue to observe
   ICU Care
   Nutrition:
   Comments: Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2182-2-4**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-02-06 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Patient conversant, knew he was in [**Hospital 23**] Hospital in [**2182-1-28**]
   yesterday AM; mental status markedly improved from overnight and
   previous day.  His mental status slowly worsened as the day progressed
   -Around 2pm patient had large BM and had received 40mg torsemide two
   hours earlier, developed hypotension and appeared somnolent.  ECG
   demonstrated diffusely inverted T waves in anterior leads, remniscent
   of ECG on morning [**2182-1-22**] pre-PCI which also demonstrated T-wave
   inversions.  250cc bolus NS with resolution of pressures.
   - Decreased dose of metoprolol from 25 to 12.5mg TID and lisinopril
   from 5 to 2.5mg QD.  Changed dose of torsemide from 40mg QD to 20mg [**Hospital1 7**]
   in order to be able to hold med if diuretic involved in hypotensive
   episode.
   - overnight, he was given seroquel 12.5mg.  he was somnolent ~8pm, ABG
   done to eval for hypercarbia but pCO2 51; pt became agitated again
   overnight, angry but coherent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2182-2-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2182-2-5**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-6**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 89 (76 - 98) bpm
   BP: 104/57(66) {75/42(50) - 123/75(85)} mmHg
   RR: 23 (15 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,410 mL
                                                                     60 mL
   PO:
                                                                    660 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    750 mL
   Blood products:
   Total out:
                                                                  1,392 mL
                                                                    425 mL
   Urine:
                                                                  1,392 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.41/51/71/33/5
   Physical Examination
   General Appearance: No acute distress, obese, alert, oriented to
rehab
 and [**2182-1-28**] in early AM and had attention to recite days of
   week backwards; within a couple of hours, hypoactive and somnolent,
   awakens to sternal rub but goes back to sleep
   Head, Ears, Nose, Throat: Normocephalic, moist mucus membranes
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic III/VI)
   Respiratory / Chest: Bibasilar crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, obese
   Extremities: lower extremities trace edema
   Skin:  left anterior lower shin erythematous and warm
   Neurologic: Attentive, conversational in AM; somnolent by AM rounds
   Labs / Radiology
   161 K/uL
   10.5 g/dL
   166 mg/dL
   1.3 mg/dL
   33 mEq/L
   4.0 mEq/L
   15 mg/dL
   106 mEq/L
   146 mEq/L
   31.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2182-1-29**]  04:12 PM
                             [**2182-1-29**]  04:24 PM
                             [**2182-1-30**]  03:16 AM
                             [**2182-1-31**]  04:05 AM
                             [**2182-2-4**]  03:12 PM
                             [**2182-2-4**]  05:04 PM
                             [**2182-2-5**]  04:00 AM
                             [**2182-2-5**]  02:50 PM
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
   WBC
   6.2
   8.2
   8.7
   6.9
   Hct
   29.9
   28.0
   33.8
   31.7
   Plt
   275
   237
   174
   161
   Cr
   1.0
   0.9
   1.0
   1.2
   1.3
   1.3
   TCO2
   34
   40
   38
   33
   Glucose
   245
   256
   182
   136
   125
   166
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   # Altered Mental Status/ Delirium:
   Alternating Hypoactive and Hyperactive Delirium.  The patient has been
   agitated since the outside hospital, likely delirious since
   presentation from outside hospital. He has multiple new lesions in his
   brain likely secondary to cath procedures with emboli. Has required
   restraints and chemical restraints to prevent injury to self and
   others. Continues w agitation particularly each night and has been
   somnolent in middle of day intermittently.  Has responded to seroquel
   for a couple of hours last night.  Geriatrics is following.  QTc
   yesterday ~450.  Also started on low dose neurontin last night as
   well.  UA negative.  No metabolic source found.
   - appreciate geriatrics recs
   - continue seroquel at night, and add prn Haldol TID, per Geriatrics
   recs
   - DCed neurontin
   - frequent reorientation
   - minimize lines and tubes as possible ; continues w foley catheter and
   telemetry and requires restraints intermittently, particularly at night
   - sleep wake cycles
   - OOB for meals as possible
   #. Acute on chronic systolic CHF:
   CHF with EF 30-35%. Appeared fluid overloaded and had hypoxemic
   respiratory failure requiring intubation previously; has had ABGs drawn
   multiple times in past several days for concern of somnolence and
   hypercarbia, but patient has been stable. Patient has been diuresed.
   Lasix DCed yesterday. 40mg torsemide appeared to drop blood pressures
   yesterday, so dose was decreased to 20mg [**Hospital1 7**].  Urine output and mental
   status may correlate with blood pressure.
   - continue 20mg torsemide but decrease to DAILY in order to help
   maintain BP
   - oxygen for SaO2 > 92%
   - Continue Metoprolol tartrate 12.5mg TID (decreased doses from
   yesterday after hypotensive episode)
   - DCed lisinopril to improve blood pressure
   #. NSTEMI/CAD:
   Patient's symptoms prior to hospitalization are concerning for unstable
   angina and enzymes at OSH were suggestive of  NSTEMI in the setting of
   Troponin elevation. However, no EKGs are available from the OSH. Serum
   troponin on admission to [**Hospital1 19**] was 0.04. Cardiac catheterization
   demonstrated occlusion of the SVG-OM1 & LIMA-LAD grafts, but patient
   agitation during procedure prevented completion of cardiac
   catheterization. s/p DES to SVG-OM1 and LIMA-LAD. Chest pain free. CE
   stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 12.5mg [**Hospital1 7**]
   - holding low dose acei
   - telemetry
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - Continue NPH 22u [**Hospital1 7**] & Humalog sliding scale and adjust prn
   #. EtOH abuse: Outside window for withdrawal. Monitor.
   - SW consult
   #. HLD: Continue Atorvastatin 80mg daily.
   #. HTN:
   -Continue Lisinopril 2.5mg daily
   -Continue Metoprolol Tartrate 12.5mg PO BID
   #. GERD:
   - Ranitidine 150mg PO BID
   #. Anxiety/Depression: Stable.
   - Continue to observe
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2182-2-4**] 12:00 PM
   20 Gauge - [**2182-2-5**] 02:58 PM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   # ?Cellulitis on Left Anterior Lower Leg
   - started Keflex 500mg [**Hospital1 7**] x 5days
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 10501**], MD
   on:[**2182-2-6**] 03:06 PM ------

2182-02-06 07:31:00 Physician Resident Progress Note
TITLE: Medical Student CCU Progress Note
   Chief Complaint: SOB. Now Delerium/Sun-Downing.
   HPI: 82 yo with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization after ICU admission for respiratory failure and
   elevated Troponin and was intubated for DTs.   S/P PTCA and stenting of
   the SVG-OM1 & LIMA-LAD for 95% stenoses.  [**Last Name (LF) 12452**], [**First Name3 (LF) **] 55%.
   24 Hour Events:
   [**2-6**]
   -Continued delirium and agitation following AM A+Ox3.  Start PO haldol
   PRN with standing dose at night along with quetiapine.
   -Treat cellulitis with cephalexin.
   [**2-5**]
   -Potassium repleted twice.
   -Difficulty falling asleep, became agitated required sedation.
   -Morning: Patient conversant, knows he is in [**Hospital 23**] Hospital in [**Month (only) 1609**]
   [**2181**]. Patient angry about restraints and attention from RNs.  Mental
   status markedly improved.
   -At 2pm patient had BM, developed hypotension and appeared somnolent.
   ECG demonstrated diffusely inverted T waves in anterior leads,
   remniscent of ECG on morning [**2182-1-22**] pre-PCI which also demonstrated
   T-wave inversions.  250cc bolus NS with resolution of pressures.
   - Decreased dose of metoprolol from 25 to 12.5mg TID and lisinopril
   from 5 to 2.5mg QD.  Changed dose of torsemide from 40mg QD to 20mg [**Hospital1 7**]
   in order to be able to hold med if diuretic involved in hypotensive
   episode.
   Allergies:
   No Known Drug Allergies
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2182-2-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2182-2-5**] 04:00 PM
   Other medications:
    Acetaminophen. Albuterol 0.083% Neb Soln, Artificial Tears, Aspirin,
   Atorvastatin. Clopidogrel. Dextrose 50%. Docusate. FoLIC Acid.
   Gabapentin
   . Heparin. Insulin. Ipratropium Bromide.
   Lisinopril. Metoprolol Tartrate. Milk of Magnesia Miconazole Powder 2%
   . Quetiapine Fumarate Senna.
   Thiamine. Torsemide
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-6**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 89 (76 - 98) bpm
   BP: 104/57(66) {75/42(50) - 123/75(85)} mmHg
   RR: 23 (15 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,410 mL
                                                                     60 mL
   PO:
                                                                    660 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    750 mL
   Blood products:
   Total out:
                                                                  1,392 mL
                                                                    425 mL
   Urine:
                                                                  1,392 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.41/51/71/33/5
   Physical Examination
   Gen: elderly, obese man, lying in bed
   HEENT: PERRL, EOMI.
   Neck: JVP ~13cm. Hepatojugular reflex.
   CV: RRR, normal S1, & S2, II/VI systolic murmur at USB, no S3 or S4.
   Chest: Respirations mildly labored with accessory muscle use. Posterior
   lung exam crackles
 up.
   Abd: Soft, NT/ND. No HSM or tenderness.
   Ext: trace lower extremity edema bilaterally, warm lower extremities.
   Skin: warm/erythematous left ankle.
   Labs / Radiology
   161 K/uL
   10.5 g/dL
   166 mg/dL
   1.3 mg/dL
   33 mEq/L
   4.0 mEq/L
   15 mg/dL
   106 mEq/L
   146 mEq/L
   31.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2182-1-29**]  04:12 PM
                             [**2182-1-29**]  04:24 PM
                             [**2182-1-30**]  03:16 AM
                             [**2182-1-31**]  04:05 AM
                             [**2182-2-4**]  03:12 PM
                             [**2182-2-4**]  05:04 PM
                             [**2182-2-5**]  04:00 AM
                             [**2182-2-5**]  02:50 PM
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
   WBC
   6.2
   8.2
   8.7
   6.9
   Hct
   29.9
   28.0
   33.8
   31.7
   Plt
   275
   237
   174
   161
   Cr
   1.0
   0.9
   1.0
   1.2
   1.3
   1.3
   TCO2
   34
   40
   38
   33
   Glucose
   245
   256
   182
   136
   125
   166
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   [**2182-2-5**] UA without pyuria, occasional bacteria, CX pending.
   Assessment and Plan
   Patient is a 82 yo with hx of CABG, DM, etoh abuse, transferred for
   cardiac catheterization after ICU admission for respiratory failure
   during which time he had an elevated Troponin and was intubated for
   hypoxic respiratory failure and DTs.   Now s/p DES with continued
   intermittent respiratory distress and delirium.
   .
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**]. Persistent pulmonary edema following
   NSTEMI and PCI.
   - Torsemide 20mg [**Hospital1 7**], hold PM dose if bp instability.
   - O2 by NC
   - Metoprolol Tartrate 12.5mg TID
   .
   # Agitation/Mental status changes: Delerium/Sun-Downing with psych
   input suggesting daytime activity, reorientation, infectious work up.
   Will discontinue neurontin to limit polypharmacy.  Will treat
   cellulitis.  Consider hypoxia repeat CXray.
   - Quetiapine Fumarate 12.5 mg PO/NG Q 6PM, increase to 25mg QD.
   - Add Haldol PRN per [**Female First Name (un) **].
   - Monitor QT, fine yesterday.
   - Frequent reorientation
   - Minimize lines & tubes
   - Preserve sleep wake cycles
   - OOB for meals, PT consult
   - Repeat CXray
   .
   #Cellulitis of L ankle. Treat.  Unlikely chronic venous stasis
   according to note.
   - Cephalexin 500 mg PO/NG Q12H Duration: 5 Days
   .
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. S/P OM DES.
   - ASA 325mg daily
   - Atorvastatin 80mg daily
   - Plavix 75mg daily
   - Metoprolol Tartrate 12.5mg TID
   .
   #. Rhythm: Patient in and out of AF in the CCU, will continue to
   monitor closely.  Irregular rate APCs on tele today.
   - On telemetry
   - Metoprolol Tartrate 12.5 TID
   .
   #. DM: Will continue NPH & insulin sliding scale from OSH.  Controlled
   on glucose in mid 100s.
   - NPH [**Hospital1 7**] & Humalog sliding scale
   .
   #. EtOH abuse: s/p DTs at OSH
   - Lorazepam if needed, folate, thiamine
   .
   #. HLD: Continue Atorvastatin 80mg daily.
   .
   #. Hypotensive episodes.
   -Discontinue Lisinopril 2.5mg daily
   -Continue Metoprolol Tartrate 12.5mg PO TID for rate control given Afib
   in past.
   .
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   .
   #. Hx of TIA: Short-term left hand and leg weakness, now resolved. No
   focal neurologic deficits
   .
   #. FEN: Cardiac/diabetic, MVI
   .
   #. Access: PIV, right subclavian line (will plan to d/c when patient
   cooperative)
   .
   #. PPx: Heparin SC
   .
   #. Communication: [**First Name8 (NamePattern2) 2064**] [**Known lastname 12865**] ([**Telephone/Fax (1) 12866**]
   .
   #. Code: FULL
   .
   #. Dispo: pending repeat cardiac catheterization
   ICU Care
   Nutrition:
   Glycemic Control:  adequate, no change to insulin regimen.
   Lines:
   22 Gauge - [**2182-2-4**] 12:00 PM
   20 Gauge - [**2182-2-5**] 02:58 PM
   Prophylaxis:
   DVT: add heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-02-07 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Spoke with [**Female First Name (un) **] consult agreed to increased PM Quetiapine, also added
   PRN Haldol.  Will continue to follow EKGs.
   -Cellulitis of L ankle. Treat with Cephalexin 500 mg PO/NG Q12H
   Duration: 5 Days
   -relatively low BP and confusion at 10:20am.  Decreased dose of
   torsemide from [**Hospital1 7**] to QD and discontinued lisinopril.  Repeat CXray
   tmrw.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-2-6**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-7**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 95 (74 - 102) bpm
   BP: 112/54(67) {74/28(48) - 112/64(85)} mmHg
   RR: 16 (13 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,080 mL
                  PO:
                                                                    580 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,194 mL
                                                                    370 mL
   Urine:
                                                                  1,194 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -114 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   158 K/uL
   9.9 g/dL
   115 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   144 mEq/L
   30.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2182-1-30**]  03:16 AM
                             [**2182-1-31**]  04:05 AM
                             [**2182-2-4**]  03:12 PM
                             [**2182-2-4**]  05:04 PM
                             [**2182-2-5**]  04:00 AM
                             [**2182-2-5**]  02:50 PM
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
                             [**2182-2-6**]  05:05 PM
                             [**2182-2-7**]  03:00 AM
   WBC
   6.2
   8.2
   8.7
   6.9
   5.5
   Hct
   29.9
   28.0
   33.8
   31.7
   30.4
   Plt
   275
   237
   174
   161
   158
   Cr
   0.9
   1.0
   1.2
   1.3
   1.3
   1.3
   1.2
   TCO2
   40
   38
   33
   Glucose
   [**Telephone/Fax (3) 13211**]25
   166
   98
   115
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   # Altered Mental Status/ Delirium:
   Alternating Hypoactive and Hyperactive Delirium.  The patient has been
   agitated since the outside hospital, likely delirious since
   presentation from outside hospital. He has multiple new lesions in his
   brain likely secondary to cath procedures with emboli. Has required
   restraints and chemical restraints to prevent injury to self and
   others. Continues w agitation particularly each night and has been
   somnolent in middle of day intermittently.  Has responded to seroquel
   for a couple of hours last night.  Geriatrics is following.  QTc
   yesterday ~450.  Also started on low dose neurontin last night as
   well.  UA negative.  No metabolic source found.
   - appreciate geriatrics recs
   - continue seroquel at night, and add prn Haldol TID, per Geriatrics
   recs
   - DCed neurontin
   - frequent reorientation
   - minimize lines and tubes as possible ; continues w foley catheter and
   telemetry and requires restraints intermittently, particularly at night
   - sleep wake cycles
   - OOB for meals as possible
   #. Acute on chronic systolic CHF:
   CHF with EF 30-35%. Appeared fluid overloaded and had hypoxemic
   respiratory failure requiring intubation previously; has had ABGs drawn
   multiple times in past several days for concern of somnolence and
   hypercarbia, but patient has been stable. Patient has been diuresed.
   Lasix DCed yesterday. 40mg torsemide appeared to drop blood pressures
   yesterday, so dose was decreased to 20mg [**Hospital1 7**].  Urine output and mental
   status may correlate with blood pressure.
   - continue 20mg torsemide but decrease to DAILY in order to help
   maintain BP
   - oxygen for SaO2 > 92%
   - Continue Metoprolol tartrate 12.5mg TID (decreased doses from
   yesterday after hypotensive episode)
   - DCed lisinopril to improve blood pressure
   #. NSTEMI/CAD:
   Patient's symptoms prior to hospitalization are concerning for unstable
   angina and enzymes at OSH were suggestive of  NSTEMI in the setting of
   Troponin elevation. However, no EKGs are available from the OSH. Serum
   troponin on admission to [**Hospital1 19**] was 0.04. Cardiac catheterization
   demonstrated occlusion of the SVG-OM1 & LIMA-LAD grafts, but patient
   agitation during procedure prevented completion of cardiac
   catheterization. s/p DES to SVG-OM1 and LIMA-LAD. Chest pain free. CE
   stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 12.5mg [**Hospital1 7**]
   - holding low dose acei
   - telemetry
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - Continue NPH 22u [**Hospital1 7**] & Humalog sliding scale and adjust prn
   #. EtOH abuse: Outside window for withdrawal. Monitor.
   - SW consult
   #. HLD: Continue Atorvastatin 80mg daily.
   #. HTN:
   -Continue Lisinopril 2.5mg daily
   -Continue Metoprolol Tartrate 12.5mg PO BID
   #. GERD:
   - Ranitidine 150mg PO BID
   #. Anxiety/Depression: Stable.
   - Continue to observe
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2182-2-4**] 12:00 PM
   20 Gauge - [**2182-2-5**] 02:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-02-08 07:08:00 Physician Resident Progress Note
Chief Complaint: 82M angina vs NSTEMI s/p 2 DES, course c/b respiratory
   failure, agitation, delirium
   24 Hour Events:
   - Psych consult --> Delirium is a medical problem; patient wont be able
   to get [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 13253**] Rehab bed
   - Patient more alert during the day today than previously,
   intermittently oriented to place and year; oriented to [**Month (only) 2299**];
   appears to be confabulating
   - Again verbally aggressive w female nurses intermittently; also became
   agressive physically kicking when trying to keep him from getting out
   of bed on multiple occasions; received haldol ~8pm and 10:30pm
   - restraints (X4) had to be restarted ~4:30am after kicking episode
   - QTc on tele ~0.47, gave another dose of po Haldol 1mg 4:30am
   - had been given seroquel 50mg this night with not as much effect as
   small dose haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-2-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-8**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 100 (81 - 105) bpm
   BP: 106/82(88) {84/16(41) - 129/82(91)} mmHg
   RR: 26 (12 - 28) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                    600 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    915 mL
                                                                    240 mL
   Urine:
                                                                    915 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -315 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Rash: r leg cellulitis
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x2,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   185 K/uL
   10.4 g/dL
   130 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.4 mEq/L
   11 mg/dL
   103 mEq/L
   144 mEq/L
   31.1 %
   6.1 K/uL
        [image002.jpg]
                             [**2182-1-31**]  04:05 AM
                             [**2182-2-4**]  03:12 PM
                             [**2182-2-4**]  05:04 PM
                             [**2182-2-5**]  04:00 AM
                             [**2182-2-5**]  02:50 PM
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
                             [**2182-2-6**]  05:05 PM
                             [**2182-2-7**]  03:00 AM
                             [**2182-2-8**]  05:41 AM
   WBC
   8.2
   8.7
   6.9
   5.5
   6.1
   Hct
   28.0
   33.8
   31.7
   30.4
   31.1
   Plt
   237
   174
   161
   158
   185
   Cr
   1.0
   1.2
   1.3
   1.3
   1.3
   1.2
   1.0
   TCO2
   40
   38
   33
   Glucose
   182
   136
   125
   166
   98
   115
   130
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Imaging: cxr: As compared to the previous radiograph, there is no
   relevant
   change. Small left lateral areas of hypoventilation. Borderline size of
   the
   cardiac silhouette without signs of pulmonary edema. No interval
   recurrence
   of focal parenchymal opacity suggesting pneumonia.
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   82M angina vs NSTEMI s/p 2 DES, course c/b respiratory failure,
   agitation, delirium
   # Altered Mental Status/ Delirium: Alternating Hypoactive and
   Hyperactive Delirium.  The patient has been agitated since the outside
   hospital, likely delirious since presentation from outside hospital. He
   has multiple new lesions in his brain likely secondary to cath
   procedures with emboli.  Not on restraints this AM.  Haldol may be more
   effective than seroquel for this patient. Need to discuss with [**Female First Name (un) **]
   options. [**Month (only) 51**] be partially secondary to emboli during procedure.
   - appreciate geriatrics recs
   - discuss with [**Female First Name (un) **] changing to haldol
   - check EKG for QTc
   - cont frequent re-orientation
   - minimize lines
   - minimize restraints
   - correct sleep wake cycles
   - OOB as much as possible
   # Acute on chronic systolic CHF: CHF with EF 30-35%. Appeared fluid
   overloaded and had hypoxemic respiratory failure requiring intubation
   previously.  Continues to have rales and O2 requirement but does blood
   pressure cannot tolerate further diuresis.  Fluid balance about even in
   last 24 hrs, mildly negative
   - continue 20mg torsemide daily to keep him even
   - oxygen for SaO2 > 92%, wean O2 as toelrated
   - Continue Metoprolol tartrate 12.5mg TID
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. s/p DES to SVG-OM1 and LIMA-LAD.
   Chest pain free. CE stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 12.5mg [**Hospital1 7**]
   - holding low dose acei
   - d/c telemetry - stable
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - Continue NPH 22u [**Hospital1 7**] & Humalog sliding scale and adjust prn
   #. EtOH abuse: Outside window for withdrawal. Monitor.
   - SW consult
   #. HLD: Continue Atorvastatin 80mg daily.
   #. HTN:
   - holding ACE Inhibitor
   -Continue Metoprolol Tartrate 12.5mg PO BID
   #. GERD:
   - Ranitidine 150mg PO BID
   #. Anxiety/Depression: Stable.
   - Continue to observe
   ICU Care
   Nutrition:
   Comments: per speech and swallow test
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2182-2-4**] 12:00 PM
   20 Gauge - [**2182-2-5**] 02:58 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-02-09 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: NSTEMI, delirium
   24 Hour Events:
   - started Haldol 1mg PO TID
   - QT .42 on tele
   - patient hit and kicked multiple nurses - put patient in 4 point
   restraints
   - decreased UOP overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-2-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-9**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 78 (78 - 113) bpm
   BP: 126/72(85) {104/56(71) - 130/82(93)} mmHg
   RR: 18 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                    830 mL
                                                                     80 mL
   PO:
                                                                    780 mL
                                                                     80 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    350 mL
   Urine:
                                                                    740 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), right
   upper sternal border murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Rash: left lower extremity
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, Movement: Not assessed, Tone: Not assessed, was able to recite
   presidents up to [**Last Name (un) **] backwards, although missed first [**Last Name (un) 4343**].
   Labs / Radiology
   166 K/uL
   10.2 g/dL
   154 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.9 mEq/L
   12 mg/dL
   105 mEq/L
   146 mEq/L
   30.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2182-2-4**]  05:04 PM
                             [**2182-2-5**]  04:00 AM
                             [**2182-2-5**]  02:50 PM
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
                             [**2182-2-6**]  05:05 PM
                             [**2182-2-7**]  03:00 AM
                             [**2182-2-8**]  05:41 AM
                             [**2182-2-8**]  03:18 PM
                             [**2182-2-9**]  03:57 AM
   WBC
   8.7
   6.9
   5.5
   6.1
   5.2
   Hct
   33.8
   31.7
   30.4
   31.1
   30.7
   Plt
   174
   161
   158
   185
   166
   Cr
   1.2
   1.3
   1.3
   1.3
   1.2
   1.0
   1.3
   1.2
   TCO2
   38
   33
   Glucose
   136
   125
   166
   98
   115
   130
   154
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   # Altered Mental Status/ Delirium: Alternating Hypoactive and
   Hyperactive Delirium.  The patient has been agitated since the outside
   hospital, likely delirious since presentation from outside hospital. He
   has multiple new lesions in his brain likely secondary to cath
   procedures with emboli.  Was on restraints this evening, but pleasant
   this morning.  Haldol may be more effective than seroquel for this
   patient.  [**Month (only) 51**] be partially secondary to emboli during procedure.  He
   will most likely need [**Female First Name (un) **]-psych placement.
   - appreciate geriatrics recs
   - re-consult psychiatry about possible [**Female First Name (un) **]-psych placement.
   - continue standing haldol, seroquel qhs
   - check EKG for QTc
   - cont frequent re-orientation
   - minimize lines
   - minimize restraints
   - correct sleep wake cycles
   - OOB as much as possible
   # Acute on chronic systolic CHF: CHF with EF 30-35%. Appeared fluid
   overloaded and had hypoxemic respiratory failure requiring intubation
   previously.  Continues to have rales and O2 requirement but does blood
   pressure cannot tolerate further diuresis.  Fluid balance about even in
   last 24 hrs, mildly negative
   - continue 20mg torsemide daily to keep him even
   - oxygen for SaO2 > 92%, wean O2 as tolerated
   - Continue Metoprolol tartrate 12.5mg TID
   # Cellulitis: left lower extremity rash with eschar above lesion.  Does
   not appear to be red or inflamed currently, however will continue to
   treat.
   - Day 4 of cephelexin
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. s/p DES to SVG-OM1 and LIMA-LAD.
   Chest pain free. CE stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 12.5mg TID
   - holding low dose acei
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - Continue NPH 22u [**Hospital1 7**] & Humalog sliding scale and adjust prn
   #. EtOH abuse: Outside window for withdrawal. Monitor.
   - SW consult
   #. HLD: Continue Atorvastatin 80mg daily.
   #. HTN:
   - holding ACE Inhibitor
   -Continue Metoprolol Tartrate 12.5mg PO BID
   #. GERD:
   - Ranitidine 150mg PO BID
   #. Anxiety/Depression: Stable.
   - Continue to observe
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-2-5**] 02:58 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: none
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: geripsych bed if possible.

2182-02-10 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - psych re-consulted for geripsych placement, they believe there is no
   indication for such placement currently.  Recommended increasing
   seroquel to 100mg qhs and increasing standing haldol to 2mg if needed.
   - pleasant in the morning, got naked again and became violent in pm.
   Re-orientated.
   - decided to try to keep to single [**Doctor Last Name **] regimen - haldol tid
   discontinued, seroquel qhs increased to 100mg, 25mg qam added
   - tylenol for back pain given
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Keflex - [**2182-2-9**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-2-9**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-10**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 34.8
C (94.6
   HR: 96 (83 - 107) bpm
   BP: 113/54(67) {90/37(53) - 119/62(76)} mmHg
   RR: 24 (14 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,090 mL
                                                                    120 mL
   PO:
                                                                  1,090 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    825 mL
                                                                    300 mL
   Urine:
                                                                    825 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), right
   upper sternal border murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Rash: left lower extremity
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, Movement: Not assessed, Tone: Not assessed, was able to recite
   presidents up to [**Last Name (un) **] backwards, although missed first [**Last Name (un) 4343**].
   Labs / Radiology
   129 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   13 mg/dL
   100 mEq/L
   140 mEq/L
        [image002.jpg]
                             [**2182-2-5**]  04:00 AM
                             [**2182-2-5**]  02:50 PM
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
                             [**2182-2-6**]  05:05 PM
                             [**2182-2-7**]  03:00 AM
                             [**2182-2-8**]  05:41 AM
                             [**2182-2-8**]  03:18 PM
                             [**2182-2-9**]  03:57 AM
                             [**2182-2-10**]  03:20 AM
   WBC
   8.7
   6.9
   5.5
   6.1
   5.2
   Hct
   33.8
   31.7
   30.4
   31.1
   30.7
   Plt
   174
   161
   158
   185
   166
   Cr
   1.2
   1.3
   1.3
   1.3
   1.2
   1.0
   1.3
   1.2
   1.2
   TCO2
   33
   Glucose
   136
   125
   166
   98
   115
   130
   154
   129
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   # Altered Mental Status/ Delirium:
   Alternating Hypoactive and Hyperactive Delirium.  The patient has been
   agitated since the outside hospital, likely delirious since
   presentation from outside hospital. He has multiple new lesions in his
   brain likely secondary to cath procedures with emboli.  Did not require
   four-point restraints last night.  Given increased 100mg dose of
   seroquel, .  Haldol may be more effective than seroquel for this
   patient.  [**Month (only) 51**] be partially secondary to emboli during procedure.  He
   will most likely need [**Female First Name (un) **]-psych placement.
   - appreciate geriatrics recs
   - re-consult psychiatry about possible [**Female First Name (un) **]-psych placement.
   - continue standing haldol, seroquel qhs
   - check EKG for QTc
   - cont frequent re-orientation
   - minimize lines
   - minimize restraints
   - correct sleep wake cycles
   - OOB as much as possible
   # Acute on chronic systolic CHF: CHF with EF 30-35%. Appeared fluid
   overloaded and had hypoxemic respiratory failure requiring intubation
   previously.  Continues to have rales and O2 requirement but does blood
   pressure cannot tolerate further diuresis.  Fluid balance about even in
   last 24 hrs, mildly negative
   - continue 20mg torsemide daily to keep him even
   - oxygen for SaO2 > 92%, wean O2 as tolerated
   - Continue Metoprolol tartrate 12.5mg TID
   # Cellulitis:
   Left lower extremity rash with eschar above lesion.  Does not appear to
   be as inflamed currently, however will continue to treat.
   - Day 5 of cephelexin
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. s/p DES to SVG-OM1 and LIMA-LAD.
   Chest pain free. CE stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 12.5mg TID
   - holding low dose acei
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - Continue NPH 22u [**Hospital1 7**] & Humalog sliding scale and adjust prn
   #. EtOH abuse:
   Outside window for withdrawal. Monitor.
   - SW consult
   #. HLD:
   Continue Atorvastatin 80mg daily.
   #. HTN:
   - holding ACE Inhibitor
   -Continue Metoprolol Tartrate 12.5mg PO BID
   #. GERD:
   - Ranitidine 150mg PO BID
   #. Anxiety/Depression:
   Difficult to assess in setting of delirium, but may be contributing to
   complicated mental status picture.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-2-5**] 02:58 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Rehab

2182-02-11 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - received seroquel 25mg in AM, walked around floor and said hi to all
   the nurses around 4pm, eating dinner appropriately 5:45pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Keflex - [**2182-2-9**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-2-10**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Patient is orientated x2, pleasant.  Has no complaints.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-11**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.3
C (95.6
   HR: 96 (73 - 98) bpm
   BP: 109/60(70) {65/45(50) - 110/60(88)} mmHg
   RR: 24 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,330 mL
                                                                    120 mL
   PO:
                                                                  1,280 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    300 mL
   Urine:
                                                                  1,900 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), harsh
   at LUSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Rash: left leg with eschar, appears more like
   venous stasis than cellulitis
   Neurologic: Responds to: Verbal stimuli, Oriented (to): person, year,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   166 K/uL
   10.2 g/dL
   129 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   13 mg/dL
   100 mEq/L
   140 mEq/L
   30.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2182-2-5**]  04:00 AM
                             [**2182-2-5**]  02:50 PM
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
                             [**2182-2-6**]  05:05 PM
                             [**2182-2-7**]  03:00 AM
                             [**2182-2-8**]  05:41 AM
                             [**2182-2-8**]  03:18 PM
                             [**2182-2-9**]  03:57 AM
                             [**2182-2-10**]  03:20 AM
   WBC
   8.7
   6.9
   5.5
   6.1
   5.2
   Hct
   33.8
   31.7
   30.4
   31.1
   30.7
   Plt
   174
   161
   158
   185
   166
   Cr
   1.2
   1.3
   1.3
   1.3
   1.2
   1.0
   1.3
   1.2
   1.2
   TCO2
   33
   Glucose
   136
   125
   166
   98
   115
   130
   154
   129
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   # Altered Mental Status/ Delirium:
   Much improved. Hypoactive delirium improved, now just has intermittent
   hyperactive delirium, mostly at night, starts in afternoon and becomes
   worse through night.  The patient has been agitated since the outside
   hospital, likely delirious since presentation from outside hospital. He
   has multiple new lesions in his brain likely secondary to cath
   procedures with emboli.  Did not require four-point restraints last
   night.  Given increased 100mg dose of seroquel, .  Per psych, will not
   be able to get [**Female First Name (un) **]-Psych placement.  QTc normal on telemetry.
   - appreciate geriatrics recs and psych recs
   - continue seroquel qhs and [**Last Name (LF) **], [**First Name3 (LF) **] re-address after 48hrs on this
   regimen if he continues to not improve.
   - cont frequent re-orientation
   - minimize lines
   - minimize restraints
   - correct sleep wake cycles
   - OOB as much as possible
   - Screen for Rehab
 potentially look for VA services as patient is a
   marine.
   # Acute on chronic systolic CHF: CHF with EF 30-35%. Appeared fluid
   overloaded and had hypoxemic respiratory failure requiring intubation
   previously.  Continues to have rales and O2 requirement but does blood
   pressure cannot tolerate further diuresis.  Fluid balance about even in
   last 24 hrs, mildly negative.  Does not have O2 requirement anymore,
   and does not complain of shortness of breath.
   - continue 20mg torsemide daily to keep him even
   - Continue Metoprolol tartrate 12.5mg TID as tolerated by BP
   # Cellulitis:
   Left lower extremity rash with scabs above lesion.  Does not appear to
   be as inflamed currently, however will continue to treat.
   Finished 5 day course of cephelexin
   #. NSTEMI/CAD:
   Patient's symptoms prior to hospitalization are concerning for unstable
   angina and enzymes at OSH were suggestive of  NSTEMI in the setting of
   Troponin elevation. However, no EKGs are available from the OSH. Serum
   troponin on admission to [**Hospital1 19**] was 0.04. Cardiac catheterization
   demonstrated occlusion of the SVG-OM1 & LIMA-LAD grafts, but patient
   agitation during procedure prevented completion of cardiac
   catheterization. s/p DES to SVG-OM1 and LIMA-LAD. Chest pain free. CE
   stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 12.5mg TID
   - holding low dose acei
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - Continue NPH 22u [**Hospital1 7**] & Humalog sliding scale and adjust prn
   #. EtOH abuse:   Outside window for withdrawal. Monitor.  He likely has
   some degree of alcoholic dementia or korsakoff
s encephalopathy that is
   chronic that is contributing to his overall delirium picture, as he
   tends to conflabulate extensively.
   #. HLD:
   Continue Atorvastatin 80mg daily.
   #. HTN:
   - holding ACE Inhibitor
   -Continue Metoprolol Tartrate 12.5mg PO BID
   #. GERD:
   - Ranitidine 150mg PO BID
   #. Anxiety/Depression:
   Difficult to assess in setting of delirium, but may be contributing to
   complicated mental status picture.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-2-5**] 02:58 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now.

2182-02-12 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: NSTEMI, delirium
   24 Hour Events:
   - d/c antibiotics
   - continued seroquel dosing
   - attempting to find rehab/services through [**Hospital **] hospital
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Keflex - [**2182-2-9**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-12**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 70 (55 - 118) bpm
   BP: 109/56(69) {98/52(67) - 122/70(73)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                    960 mL
                                                                    120 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    225 mL
   Urine:
                                                                  1,325 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -365 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), at RUSB
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : minimally at left base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash: left anterior aspect, eschar.  Unchanged.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, Movement: Not assessed, Tone: Not
   assessed, Able to know presidents backwards, [**Doctor Last Name 8020**] backwards to [**Month (only) 572**]
   Labs / Radiology
   166 K/uL
   10.2 g/dL
   129 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   13 mg/dL
   100 mEq/L
   140 mEq/L
   30.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2182-2-5**]  04:00 AM
                             [**2182-2-5**]  02:50 PM
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
                             [**2182-2-6**]  05:05 PM
                             [**2182-2-7**]  03:00 AM
                             [**2182-2-8**]  05:41 AM
                             [**2182-2-8**]  03:18 PM
                             [**2182-2-9**]  03:57 AM
                             [**2182-2-10**]  03:20 AM
   WBC
   8.7
   6.9
   5.5
   6.1
   5.2
   Hct
   33.8
   31.7
   30.4
   31.1
   30.7
   Plt
   174
   161
   158
   185
   166
   Cr
   1.2
   1.3
   1.3
   1.3
   1.2
   1.0
   1.3
   1.2
   1.2
   TCO2
   33
   Glucose
   136
   125
   166
   98
   115
   130
   154
   129
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   # Altered Mental Status/ Delirium:
   Much improved. Hypoactive delirium improved, now just has intermittent
   hyperactive delirium, mostly at night, starts in afternoon and becomes
   worse through night.  The patient has been agitated since the outside
   hospital, likely delirious since presentation from outside hospital. He
   has multiple new lesions in his brain likely secondary to cath
   procedures with emboli.  Did not require four-point restraints last
   night.  Given increased 100mg dose of seroquel, .  Per psych, will not
   be able to get [**Female First Name (un) **]-Psych placement.  QTc normal on telemetry.
   - appreciate geriatrics recs and psych recs
   - continue seroquel qhs and qam as this appears to have improved his
   delirium.
   - will try trazadone to help with sleep.
   - cont frequent re-orientation
   - minimize lines
   - minimize restraints
   - correct sleep wake cycles
   - OOB as much as possible
   - Screen for Rehab
 potentially look for VA services as patient is a
   marine.
   # Acute on chronic systolic CHF: CHF with EF 30-35%. Appeared fluid
   overloaded and had hypoxemic respiratory failure requiring intubation
   previously.  Continues to have rales and O2 requirement but does blood
   pressure cannot tolerate further diuresis.  Fluid balance about even in
   last 24 hrs, mildly negative.  Does not have O2 requirement anymore,
   and does not complain of shortness of breath.
   - continue 20mg torsemide daily to keep him even
   - Continue Metoprolol tartrate 12.5mg TID as tolerated by BP
   # Cellulitis:
   Left lower extremity rash with scabs above lesion.  Does not appear to
   be as inflamed currently, however will continue to treat.
   Finished 5 day course of cephelexin
   #. NSTEMI/CAD:
   Patient's symptoms prior to hospitalization are concerning for unstable
   angina and enzymes at OSH were suggestive of  NSTEMI in the setting of
   Troponin elevation. However, no EKGs are available from the OSH. Serum
   troponin on admission to [**Hospital1 19**] was 0.04. Cardiac catheterization
   demonstrated occlusion of the SVG-OM1 & LIMA-LAD grafts, but patient
   agitation during procedure prevented completion of cardiac
   catheterization. s/p DES to SVG-OM1 and LIMA-LAD. Chest pain free. CE
   stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 12.5mg TID
   - holding low dose acei
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - Continue NPH 22u [**Hospital1 7**] & Humalog sliding scale and adjust prn
   #. EtOH abuse:   Outside window for withdrawal. Monitor.  He likely has
   some degree of alcoholic dementia or korsakoff
s encephalopathy that is
   chronic that is contributing to his overall delirium picture, as he
   tends to conflabulate extensively.
   #. HLD:
   Continue Atorvastatin 80mg daily.
   #. HTN:
   - holding ACE Inhibitor
   -Continue Metoprolol Tartrate 12.5mg PO BID
   #. GERD:
   - milk of mag prn
   #. Anxiety/Depression:
   Difficult to assess in setting of delirium, but may be contributing to
   complicated mental status picture.
   ICU Care
   Nutrition:
   Glycemic Control:  Glargine and SS
   Lines:
   20 Gauge - [**2182-2-5**] 02:58 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Floor

2182-02-13 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-13**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 79 (70 - 99) bpm
   BP: 111/55(69) {89/26(43) - 122/66(75)} mmHg
   RR: 25 (16 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.1 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                    750 mL
                                                                    120 mL
   PO:
                                                                    750 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    200 mL
   Urine:
                                                                  1,325 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -575 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash: L LE
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x2
   (person, date, - wrong hospital), Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   202 K/uL
   10.7 g/dL
   107 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.1 mEq/L
   12 mg/dL
   101 mEq/L
   142 mEq/L
   32.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2182-2-5**]  02:50 PM
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
                             [**2182-2-6**]  05:05 PM
                             [**2182-2-7**]  03:00 AM
                             [**2182-2-8**]  05:41 AM
                             [**2182-2-8**]  03:18 PM
                             [**2182-2-9**]  03:57 AM
                             [**2182-2-10**]  03:20 AM
                             [**2182-2-12**]  09:00 AM
   WBC
   6.9
   5.5
   6.1
   5.2
   7.6
   Hct
   31.7
   30.4
   31.1
   30.7
   32.0
   Plt
   161
   158
   185
   166
   202
   Cr
   1.3
   1.3
   1.3
   1.2
   1.0
   1.3
   1.2
   1.2
   1.2
   TCO2
   33
   Glucose
   125
   166
   98
   115
   130
   154
   129
   107
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   # Altered Mental Status/ Delirium: Improved from prior. Hypoactive
   delirium improved, now just has intermittent hyperactive delirium,
   mostly at night, starts in afternoon and becomes worse through night.
   The patient has been agitated since the outside hospital, likely
   delirious since presentation from outside hospital. He has multiple new
   lesions in his brain likely secondary to cath procedures with emboli.
   Did not require four-point restraints prior nights.  Given increased
   100mg dose of seroquel.  Per psych, will not be able to get [**Female First Name (un) **]-Psych
   placement.  QTc normal on telemetry.
   - appreciate geriatrics recs and psych recs
   - continue seroquel qhs and qam as this appears to have improved his
   delirium.
   - continue trazadone qhs
   - cont frequent re-orientation
   - minimize lines
   - minimize restraints
   - correct sleep wake cycles
   - OOB as much as possible
   - Screen for Rehab
 potentially look for VA services as patient is a
   vet
   - PT consult
   # Acute on chronic systolic CHF: CHF with EF 30-35%. Appeared fluid
   overloaded and had hypoxemic respiratory failure requiring intubation
   previously.  Continues to have rales but does blood pressure cannot
   tolerate further diuresis.  Fluid balance about even in last 24 hrs,
   mildly negative.  Does not have O2 requirement anymore, and does not
   complain of shortness of breath.
   - continue 20mg torsemide daily to keep him even
   - Continue Metoprolol tartrate 12.5mg TID as tolerated by BP
   # Cellulitis: Left lower extremity rash with scabs above lesion.  Does
   not appear to be as inflamed currently, however will continue to treat.
   Finished 5 day course of cephelexin.
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. s/p DES to SVG-OM1 and LIMA-LAD.
   Chest pain free. CE stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 12.5mg TID
   - holding low dose ACEi
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - Continue NPH 22u [**Hospital1 7**] & Humalog sliding scale and adjust prn
   #. EtOH abuse:   Outside window for withdrawal. Monitor.  He likely has
   some degree of alcoholic dementia or korsakoff
s encephalopathy that is
   chronic that is contributing to his overall delirium picture, as he
   tends to conflabulate extensively.
   - folic acid
   - thiamine
   #. HLD: Continue Atorvastatin 80mg daily.
   #. HTN:
   - holding ACE Inhibitor
   -Continue Metoprolol Tartrate 12.5mg PO BID
   #. Anxiety/Depression: Difficult to assess in setting of delirium, but
   may be contributing to complicated mental status picture.
   ICU Care
   Nutrition:
   Comments: heart healthy diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2182-2-12**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2182-02-14 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2-13**]
   - increased trazodone to 50mg [**Name (NI) **]
   - PT says Rehab is optimal for patient, though mental status may
   initially worsen on transfer to another facility.  If family prefers to
   take patient home, patient will require 24 hour assist at home, CG for
   all mobility, and assist for sit to stand.  This would require family
   training while patient is in hospital.
   - Spoke w wife over telephone, who prefers patient to be in Rehab IF
   Rehab is <20min away from home but prefers him to be at home if Rehab
   is too far away
   - No vitals overnight to help decrease agitation
   - Security called b/c patient uncooperative, hitting nurse when she
   attempted to give meds, walking around room
   - gave 5mg IV Haldol for agitation ; took HS trazodone at same time and
   was knocked out for no more than 40min, then started trying to get out
   of bed again ; he eventually fell asleep in chair
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-14**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.6
   HR: 88 (81 - 112) bpm
   BP: 110/64(76) {104/55(65) - 126/95(100)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.2 kg (admission): 104.6 kg
   Height: 70 Inch
                  Total In:
                                                                    840 mL
                  PO:
                                                                    840 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                      0 mL
   Urine:
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -210 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   precordial ejection murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally [**12-29**] way up
   lung fields)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, venous stasis erythema on left leg stable, eschar
   unchanged.
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed, Able to [**First Name8 (NamePattern2) **]
   [**Doctor Last Name 8020**] backwards to [**Month (only) **], presidents to [**First Name4 (NamePattern1) 2323**]
   [**Last Name (NamePattern1) 582**] / Radiology
   180 K/uL
   10.8 g/dL
   159 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.8 mEq/L
   15 mg/dL
   98 mEq/L
   137 mEq/L
   34.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2182-2-5**]  09:35 PM
                             [**2182-2-6**]  03:55 AM
                             [**2182-2-6**]  05:05 PM
                             [**2182-2-7**]  03:00 AM
                             [**2182-2-8**]  05:41 AM
                             [**2182-2-8**]  03:18 PM
                             [**2182-2-9**]  03:57 AM
                             [**2182-2-10**]  03:20 AM
                             [**2182-2-12**]  09:00 AM
                             [**2182-2-14**]  04:30 AM
   WBC
   6.9
   5.5
   6.1
   5.2
   7.6
   5.5
   Hct
   31.7
   30.4
   31.1
   30.7
   32.0
   34.4
   Plt
   161
   158
   185
   166
   202
   180
   Cr
   1.3
   1.3
   1.2
   1.0
   1.3
   1.2
   1.2
   1.2
   1.2
   TCO2
   33
   Glucose
   166
   98
   115
   130
   154
   129
   107
   159
   Other [**Year (4 digits) **]: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, ALT / AST:29/42, Alk Phos / T Bili:75/0.9,
   Amylase / Lipase:/10, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82M with hx of CABG, DM, etoh abuse, transferred for cardiac
   catheterization s/p DES to LIMA-LAD, c/b intubation for hypoxemic
   respiratory failure and continued agitation.
   # Altered Mental Status/ Delirium: Improved from prior. Hypoactive
   delirium improved, now just has intermittent hyperactive delirium,
   mostly at night, starts in afternoon and becomes worse through night.
   The patient has been agitated since the outside hospital, likely
   delirious since presentation from outside hospital. He has multiple new
   lesions in his brain likely secondary to cath procedures with emboli.
   Did not require four-point restraints prior nights.  Given increased
   100mg dose of seroquel.  Per psych, will not be able to get [**Female First Name (un) **]-Psych
   placement.  QTc normal on telemetry.
   - appreciate geriatrics recs and psych recs
   - continue seroquel [**Female First Name (un) 7873**] and qam as this appears to have improved his
   delirium.
   - continue trazadone [**Female First Name (un) 7873**]
   - cont frequent re-orientation
   - minimize lines
   - minimize restraints
   - correct sleep wake cycles
   - OOB as much as possible
   - Screen for Rehab
 potentially look for VA services as patient is a
   vet
   - PT/OT consult
   # Acute on chronic systolic CHF: CHF with EF 30-35%. Appeared fluid
   overloaded and had hypoxemic respiratory failure requiring intubation
   previously.  Continues to have rales but does blood pressure cannot
   tolerate further diuresis.  Fluid balance about even in last 24 hrs,
   mildly negative.  Does not have O2 requirement anymore, and does not
   complain of shortness of breath.  Does appear slightly more wet today.
   - give extra PM dose of torsemide today.
   - continue 20mg torsemide daily to keep him even
   - Continue Metoprolol tartrate 12.5mg TID as tolerated by BP
   # Cellulitis: Left lower extremity rash with scabs above lesion.  Does
   not appear to be as inflamed currently, however will continue to treat.
   Finished 5 day course of cephelexin.
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. s/p DES to SVG-OM1 and LIMA-LAD.
   Chest pain free. CE stable.
   - cont aspirin 325mg
   - cont plavix
   - cont atorvastatin 80mg
   - metoprolol tartrate 12.5mg TID
   - holding low dose ACEi
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - Continue NPH 28u qam, 22u qpm & Humalog sliding scale and adjust prn
   #. EtOH abuse:   Outside window for withdrawal. Monitor.  He likely has
   some degree of alcoholic dementia or korsakoff
s encephalopathy that is
   chronic that is contributing to his overall delirium picture, as he
   tends to conflabulate extensively.
   - folic acid
   - thiamine
   #. HLD: Continue Atorvastatin 80mg daily.
   #. HTN:
   - holding ACE Inhibitor
   -Continue Metoprolol Tartrate 12.5mg PO BID
   #. Anxiety/Depression: Difficult to assess in setting of delirium, but
   may be contributing to complicated mental status picture.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2182-2-12**] 04:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To rehab if possible